US06350904B1
in stage c) the chlorine substituent is converted into a benzylamino group by reacting 2-methyl-4-chloro-5-methylsulfonylbenzoic acid with benzylamine to give the corresponding intermediate 4-benzylamino-5-methylsulfonyl-2-methylbenzoic acid,

reactant | chlorine | ClCl | Cl2
reactant | 2-methyl-4-chloro-5-methylsulfonylbenzoic acid | CC1=C(C(=O)O)C=C(C(=C1)Cl)S(=O)(=O)C | C9H9ClO4S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 4-benzylamino-5-methylsulfonyl-2-methylbenzoic acid | C(C1=CC=CC=C1)NC1=CC(=C(C(=O)O)C=C1S(=O)(=O)C)C | C16H17NO4S
